US05545642
1.35 g (3.9 mmol) of ethyl 5,6,7,8-tetrafluoro-1-(trans-2-fluoro-cyclopropyl)-1,4-dihydro-4-oxo-3quinolinecarboxylate are heated under reflux for 2 hours in a mixture of 6.3 ml of acetic acid, 4.2 ml of water and 0.64 ml of concentrated sulphuric acid. After having been cooled down, this mixture is introduced into 40 ml of ice water and the undissolved precipitate is filtered off, washed with water and dried at 110° C. under high vacuum. Yield: 0.9 g (72% of theory) of 5,6,7,8-tetrafluoro-1-(trans-2-fluoro-cyclopropyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, melting point: 184°-186° C. (with decomposition). 5,6,7,8-Tetrafluoro-1-(cis-2-fluoro-cyclopropyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid is prepared in an analogous manner.

reactant | ethyl 5,6,7,8-tetrafluoro-1-(trans-2-fluoro-cyclopropyl)-1,4-dihydro-4-oxo-3quinolinecarboxylate | 3.9 mmol, 1.35 g | FC1=C2C(C(=CN(C2=C(C(=C1F)F)F)[C@H]1[C@@H](C1)F)C(=O)OCC)=O | C15H10F5NO3
reactant | water | 4.2 ml | O | H2O
reactant | sulphuric acid | 0.64 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 6.3 ml | C(C)(=O)O | C2H4O2
product | 5,6,7,8-Tetrafluoro-1-(cis-2-fluoro-cyclopropyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | FC1=C2C(C(=CN(C2=C(C(=C1F)F)F)[C@H]1[C@H](C1)F)C(=O)O)=O | C13H6F5NO3
